US08183262B2
6′-[3-(1,1-Dioxo-1λ6-thiomorpholine-4-sulfonyl)-phenyl]-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.300 g, 0.613 mmol) by treatment with commercially available thiomorpholine-1,1-dioxide (0.166 g, 1.226 mmol) and Et3N (0.260 mL, 1.84 mmol) in THF (5 mL) at 23° C. for 16 h. Diluted with EtOAc, washed with 5% citric acid, sat. NaHCO3-sol. and brine, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.170 g, 47%) as a white solid. MS (ISP) 588.1 [(M+H)+]; mp 230° C. (dec.).

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.613 mmol, 0.300 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | thiomorpholine-1,1-dioxide | 1.226 mmol, 0.166 g | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | Et3N | 1.84 mmol, 0.260 mL | CCN(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6′-[3-(1,1-Dioxo-1λ6-thiomorpholine-4-sulfonyl)-phenyl]-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl | 0.170 g, 47% | O=S1(CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C28H24F3N3O4S2
